US06838463B2
In 2 ml of N,N-dimethylformamide were dissolved 153 mg of 4-(2-butynyloxy)-6-(ethylamino)pyrimidine and 67 mg of allyl chloride, to which 40 mg of sodium hydride (60% in oil) was added, followed by stirring at room temperature for 3 hours. Then, ice water was added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed twice with an aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated. The residue was subjected to preparative silica gel thin layer chromatography to give 157 mg of 4-(2-butynyloxy)-6-(N-ethyl-N-allylamino)pyrimidine (the present compound (110)).

reactant | 4-(2-butynyloxy)-6-(ethylamino)pyrimidine | 153 mg | C(C#CC)OC1=NC=NC(=C1)NCC | C10H13N3O
reactant | allyl chloride | 67 mg | C(C=C)Cl | C3H5Cl
reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-(2-butynyloxy)-6-(N-ethyl-N-allylamino)pyrimidine | 157 mg | C(C#CC)OC1=NC=NC(=C1)N(CC=C)CC | C13H17N3O
